US08633186B2
2-Formyl-6-nitrobenzonitrile
1,1-Dimethoxy-N,N-dimethylmethanamine (13.56 mL, 102 mmol) was added to a solution of 2-methyl-6-nitrobenzonitrile (15.0 g, 92.5 mmol) in anhydrous DMF (60 mL) under nitrogen and was heated at 130° C. for 15 h. Ice water (300 mL) was added, and the resultant dark precipitate was collected by filtration and dried under vacuum. Phosphate buffer (pH 7, 350 mL) and then NaIO4 (40 g, 187 mmol) were added to a solution of the dark precipitate in THF (350 mL) and stirred at rt for 3 h. The mixture was extracted with EtOAc, the combined extract was washed with brine and dried with MgSO4. The filtrate was concentrated and the residue was purified by chromatography on silica using the solvent gradient hexanes→EtOAc, to give 3.07 g (19%) of the title compound as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 8.15 (t, J=8.4 Hz, 1H), 8.41 (dd, J=1.2, 7.6 Hz, 1H), 8.62 (dd, J=1.2, 8.4 Hz, 1H), 10.25 (s, 1H).

reactant | 1,1-Dimethoxy-N,N-dimethylmethanamine | 102 mmol, 13.56 mL | COC(N(C)C)OC | C5H13NO2
reactant | 2-methyl-6-nitrobenzonitrile | 92.5 mmol, 15.0 g | CC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H6N2O2
reactant | Phosphate | 350 mL, pH 7 | P(=O)([O-])([O-])[O-]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
solvent | THF | 350 mL | C1CCOC1 | C4H8O
product | 2-Formyl-6-nitrobenzonitrile | 3.07 g, 19% | C(=O)C1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H4N2O3
